US05036077
(A) 3-(4-Bromophenylthio)-2,3-epoxypropane
A suspension containing 9.45 g of 4-bromothiophenol, 14.45 g of 1-chloro-2,3-epoxypropane and 13.8 g of potassium carbonate in 100 ml of butanone is refluxed for 12 hours. The inorganic salts formed are filtered off and drained and the solvent and excess 1-chloro-2,3-epoxypropane are then evaporated off under vacuum. The residual oil is distilled at between 130° C. and 140° C. under 0.01 mm of mercury.

reactant | 4-bromothiophenol | 9.45 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | 1-chloro-2,3-epoxypropane | 14.45 g | ClCC1CO1 | C3H5ClO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | 3-(4-Bromophenylthio)-2,3-epoxypropane | BrC1=CC=C(C=C1)SC1C(C)O1 | C9H9BrOS
